US09108946B2
N-(3-Chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)-3-((3,3,3-trifluoropropyl)thio)-propanamide (Compound 5.5)
A 100-mL, three-neck round bottom flask was charged with 3-chloro-(pyridin-3-yl)-1H-pyrazol-4-amine (1.00 g, 5.14 mmol) and ethyl acetate (10 mL). Sodium bicarbonate (1.08 g, 12.9 mmol) was added, followed by dropwise addition of 3-((3,3,3-trifluoropropyl)thio)-propanoyl chloride (1.36 g, 6.17 mmol) at <20° C. The reaction was stirred at 20° C. for 2 hours, at which point thin layer chromatography analysis [Eluent: ethyl acetate] indicated that the reaction was complete. The reaction was diluted with water (50 mL) and the layers separated. The aqueous layer was extracted with ethyl acetate (20 mL) and the combined organic layers were concentrated to dryness to afford a light brown oil. The residue was purified by flash column chromatography using 30-60% ethyl acetate/hexanes. The fractions containing pure product were concentrated to dryness to afford a white solid (1.40 g, 72%): mp 99-102° C.; 1H NMR (400 MHz, DMSO-d6) δ 9.92 (s, 1H), 9.05 (d, J=2.7 Hz, 1H), 8.86 (s, 1H), 8.54 (dd, J=4.5, 1.4 Hz, 1H), 8.21 (ddd, J=8.4, 2.7, 1.4 Hz, 1H), 7.54 (dd, J=8.4, 4.7 Hz, 1H), 2.86 (t, J=7.3 Hz, 2H), 2.74 (td, J=6.5, 5.6, 4.2 Hz, 4H), 2.59 (ddd, J=11.7, 9.7, 7.4 Hz, 2H); 13C NMR (101 MHz, DMSO-d6) δ 169.32, 147.49, 139.44, 135.47, 133.40, 126.60 (q, J=296 Hz), 125.49, 124.23, 122.30, 120.00, 35.18, 33.42 (q, J=27.2 Hz), 26.77, 23.05 (q, J=3.3 Hz); EIMS m/z 378 ([M]+).

reactant | 3-chloro-(pyridin-3-yl)-1H-pyrazol-4-amine | 5.14 mmol, 1.00 g | ClC1=NN(C=C1N)C=1C=NC=CC1 | C8H7ClN4
reactant | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
reactant | Sodium bicarbonate | 12.9 mmol, 1.08 g | C([O-])(O)=O.[Na+]
reactant | 3-((3,3,3-trifluoropropyl)thio)-propanoyl chloride | 6.17 mmol, 1.36 g | FC(CCSCCC(=O)Cl)(F)F | C6H8ClF3OS
solvent | water | 50 mL | O | H2O
product | N-(3-Chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)-3-((3,3,3-trifluoropropyl)thio)-propanamide | 1.40 g, 72% | ClC1=NN(C=C1NC(CCSCCC(F)(F)F)=O)C=1C=NC=CC1 | C14H14ClF3N4OS
